// Library name: Dataset
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.

// Library name: Dataset
// Cell name: 1044
// View name: schematic
I0 (VCONT1 net7 VDD VSS) INVERTER
M3 (VCLK3 net7 VCLK2 VSS) nmos4
M2 (VCLK4 VCONT1 VCLK2 VSS) nmos4
M1 (VCLK3 VCONT1 VCLK1 VSS) nmos4
M0 (VCLK4 net7 VCLK1 VSS) nmos4